US04288437
(E)-2-[(Amino)phenylmethylene]-5-chloro-benzo[b]thiophen-3(2H)-one
Prepared as in Example 1 from 2-benzoyl-5-chloro-benzo[b]-thiophen-3-ol, phosphorus(V) chloride and concentrated ammonia with a yield of 57% of theory. M.p. 172°-173° C. (ethyl acetate)

reactant | 2-benzoyl-5-chloro-benzo[b]-thiophen-3-ol | C(C1=CC=CC=C1)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)O | C15H9ClO2S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ammonia | N | H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-[(Amino)phenylmethylene]-5-chloro-benzo[b]thiophen-3(2H)-one | yield of 57% | N\C(=C\1/C(C2=C(S1)C=CC(=C2)Cl)=O)\C2=CC=CC=C2 | C15H10ClNOS
